US05102906
The same procedures as described in Example 10 were carried out by using a mixture of 7.61 g (50 mM) of 4-n-propylcatechol, 15 ml of acetone, 30 mg of p-toluenesulfonic acid monohydrate and 15 ml of benzene. 5-n-Propyl-2,2-dimethyl-1,3-benzodioxol was obtained in the yield of 9.13 g (47 mM) as colorless transparent liquid having a boiling point of 82°-87° C./3 mmHg.

reactant | 4-n-propylcatechol | 50 mM, 7.61 g | C(CC)C=1C=C(C(O)=CC1)O | C9H12O2
reactant | acetone | 15 ml | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid monohydrate | 30 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 5-n-Propyl-2,2-dimethyl-1,3-benzodioxol | C(CC)C1=CC2=C(OC(O2)(C)C)C=C1 | C12H16O2
